US08022099B2
a) (3SR,4SR)-1-Benzyl-3-(4-chloro-phenyl)-4-nitro-pyrrolidine
A solution of N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine (6.70 g, 28.2 mmol) in CH2Cl2 (100 ml) was added drop wise, over a 30 minutes period, to a stirred solution of 1-chloro-4-((E)-2-nitro-vinyl)-benzene (4.97 g, 27.1 mmol) and trifluoroacetic acid (0.31 g, 2.7 mmol) in CH2Cl2 (150 ml) at 0° C. The ice bath was removed, and the solution was stirred at 25° C. for an additional 48 h. It was then concentrated and purification by flash chromatography (SiO2, EtOAc/H 1:4) afforded 6.75 g (79%) of the title compound as a colorless oil.

reactant | N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine | 28.2 mmol, 6.70 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | 1-chloro-4-((E)-2-nitro-vinyl)-benzene | 27.1 mmol, 4.97 g | ClC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C8H6ClNO2
reactant | trifluoroacetic acid | 2.7 mmol, 0.31 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | (3SR,4SR)-1-Benzyl-3-(4-chloro-phenyl)-4-nitro-pyrrolidine | 6.75 g, 79% | C(C1=CC=CC=C1)N1CC(C(C1)[N+](=O)[O-])C1=CC=C(C=C1)Cl | C17H17ClN2O2
